US04792561
A mixture of 1.42 g of nicotinoyl chloride (a compound of Formula A2), 6 g of aluminum trichloride and 1 g of 3,4-dihydrocarbostyril were reacted in the same manner as in Preparation 1. The product was isolated similarly giving 6-(3-pyridylcarbonyl)-3,4-dihydrocarbostyril, m.p. 195°-202° C.

reactant | nicotinoyl chloride | 1.42 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | aluminum trichloride | 6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3,4-dihydrocarbostyril | 1 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
product | 6-(3-pyridylcarbonyl)-3,4-dihydrocarbostyril | N1=CC(=CC=C1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H12N2O2
